US07745438B2
(R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-hydroxymorpholine-4-carboxylic acid tert-butyl ester
Add diisobutylaluminum hydride (1.4 mL, 1.37 mmol, 1.0 M in toluene) to a solution of (R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-oxomorpholine-4-carboxylic acid tert-butyl ester (0.75 g, 1.1 mmol) in of dry toluene (15 mL) at −78° C. under nitrogen and stir at this temperature for 2 hours (Monitor by TLC). Add methanol to quench the reaction (1.0 mL), then saturated aqueous potassium sodium tartrate (Rochelle salt) and ethyl acetate. Warm to room temperature and stir vigorously for 30 minutes. Separate the organic layer and extract the aqueous with ethyl acetate. Combine the organic layers and dry (magnesium sulfate), filter and concentrate to give the desired compound as a mixture of the two possible isomers as a white solid and used in the next step without further purification (0.75 g).

reactant | diisobutylaluminum hydride | 1.37 mmol, 1.0 M, 1.4 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-oxomorpholine-4-carboxylic acid tert-butyl ester | 1.1 mmol, 0.75 g | C(C)(C)(C)OC(=O)N1CC(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C39H42F2N2O5
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-hydroxymorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)O | C39H44F2N2O5
